US08957203B2
To a solution of 1-chloro-5-fluoro-6-methoxyisoquinoline (0.5 g, 2.363 mmol) in DMSO (5 mL), was added CsF (0.718 g, 4.73 mmol). The mixture was heated to 140° C. for 2 h. The reaction was diluted with ethylacteate and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using a gradient of 30-50% DCM in hexanes. The product fractions were collected and the solvent was removed under vacuum to give 1,5-difluoro-6-methoxyisoquinoline (340 mg, 74% yield). MS m/z 196.2 (M++1).

reactant | 1-chloro-5-fluoro-6-methoxyisoquinoline | 2.363 mmol, 0.5 g | ClC1=NC=CC2=C(C(=CC=C12)OC)F | C10H7ClFNO
reactant | CsF | 4.73 mmol, 0.718 g | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | ethylacteate | C(C)OC(C)=O | C4H8O2
product | 1,5-difluoro-6-methoxyisoquinoline | 340 mg, 74% yield | FC1=NC=CC2=C(C(=CC=C12)OC)F | C10H7F2NO
